US04045576
2-Amino-3-(4-fluorobenzoyl)phenylacetic Acid.
A mixture of 1.5 g. (0.006 mole) of 7-(4-fluorobenzoyl) indolin-2-one in 50 ml. of 3N sodium hydroxide was refluxed under nitrogen for 45 min. The solution was cooled, diluted with an equal volume of water, filtered, and the filtrate was extracted two times with 50 ml. of ether. The aqueous basic solution was treated dropwise with glacial acetic acid until a heavy yellow precipitate formed. The precipitate was filtered off, washed thoroughly with water and air-dried. The yield was 1.1 g. (68%); m.p. 136°-137° C.

reactant | 7-(4-fluorobenzoyl) indolin-2-one | 0.006 mole | FC1=CC=C(C(=O)C=2C=CC=C3CC(NC23)=O)C=C1 | C15H10FNO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Amino-3-(4-fluorobenzoyl)phenylacetic Acid | NC1=C(C=CC=C1C(C1=CC=C(C=C1)F)=O)CC(=O)O | C15H12FNO3
